US07414050B2
b) 2-Bromo-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine
[4-(1,1-Dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-carbamic acid tert-butyl ester (as prepared in the previous step, 100 mg, 0.305 mmol) was dissolved in TFA (1 mL). The resulting solution was stirred at RT for 30 min and concentrated in vacuo. The residue obtained (74.3 mg) was dried in vacuo for 1 h and dissolved in HOAc (2 mL). The resulting mixture was cooled to 0° C. and NBS (42.6 mg, 0.239 mmol) was added. The resulting mixture was stirred for 30 min, washed with aq NaHCO3 (2 mL) and concentrated. The residue was purified on silica (20-100% EtOAc-hexane) to obtain the title compound (49 mg, 52%): 1H-NMR (CD3OD; 400 MHz): δ 7.23 (d, 1H, J=2.0 Hz), 6.93 (dd, 1H, J=8.2, 2.0 Hz), 6.78 (d, 1H, J=8.2 Hz), 3.63 (m, 2H), 3.32 (m, 2H), 2.82 (m, 1H).

reactant | [4-(1,1-Dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1CNS(NC1)(=O)=O)=O | C14H21N3O4S
reactant | NBS | 0.239 mmol, 42.6 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Bromo-4-(1,1-dioxo-1λ6-[1,2,6]thiadiazinan-4-yl)-phenylamine | 49 mg, 52% | BrC1=C(C=CC(=C1)C1CNS(NC1)(=O)=O)N | C9H12BrN3O2S
